US08372842B2
A solution of 5,5-dimethylpyrrolidin-2-one (33.9 g, 300.3 mmol) in dry THF (300 mL) was chilled to −20° C., followed by the addition of LHMDS (330.4 mL, 330.4 mmol) (1M THF). The solution was allowed to stir for 30 minutes at −20° C., followed by the addition of a solution of di-tert-butyl dicarbonate (72.1 g, 330.4 mmol) in THF (20 mL). The reaction was allowed to warm to room temperature and stirred for 15 hours. The reaction was quenched with saturated NH4Cl (50 mL) and diluted with EtOAc (100 mL). The layers were separated. The organic fraction was washed with saturated NH4Cl (50 mL), NaHCO3 (50 mL), brine (50 mL), dried (MgSO4) and concentrated to a dark oil. Purification by column chromatography (10% EtOAc in hexane) gave tert-butyl 2,2-dimethyl-5-oxopyrrolidine-1-carboxylate (38.2 g, 60% yield).

reactant | 5,5-dimethylpyrrolidin-2-one | 300.3 mmol, 33.9 g | CC1(CCC(N1)=O)C | C6H11NO
reactant | LHMDS | 330.4 mmol, 1M, 330.4 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | di-tert-butyl dicarbonate | 330.4 mmol, 72.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 2,2-dimethyl-5-oxopyrrolidine-1-carboxylate | 38.2 g, 60% yield | CC1(N(C(CC1)=O)C(=O)OC(C)(C)C)C | C11H19NO3
